US07517532B2
Step 1: 3-[4-(4-Fluorobenzyl)-3-oxopiperazin-1-yl]-3-oxopropanenitrile
To a solution of 1-(4-fluorobenzyl)piperazin-2-one (1.99 g, 9.6 mmol), cyanoacetic acid (0.82 g, 9.6 mmol), EDC (2.02 g, 10.5 mmol), and HOBt (0.15 g, 0.96 mmol) in anhydrous DMF (40 mL), N,N-diisopropylethylamine was added until the solution is about pH 6. The reaction mixture was stirred at room temperature overnight and concentrated under vacuum. The residue was partitioned between chloroform and water. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound. The residue was subjected to column chromatography on silica gel eluting with a mixture of 9:1:0.1 mixture of chloroform, methanol, and aq ammonium hydroxide. Collection and concentration of appropriate fractions provided the title product. Residual protic solvent was removed by co-evaporation with benzene (3×). ES MS M-OCH3=276

reactant | 1-(4-fluorobenzyl)piperazin-2-one | 9.6 mmol, 1.99 g | FC1=CC=C(CN2C(CNCC2)=O)C=C1 | C11H13FN2O
reactant | cyanoacetic acid | 9.6 mmol, 0.82 g | C(#N)CC(=O)O | C3H3NO2
reactant | EDC | 10.5 mmol, 2.02 g
reactant | HOBt | 0.96 mmol, 0.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 3-[4-(4-Fluorobenzyl)-3-oxopiperazin-1-yl]-3-oxopropanenitrile | FC1=CC=C(CN2C(CN(CC2)C(CC#N)=O)=O)C=C1 | C14H14FN3O2
